US04137315
A solution of potassium nitrate (34.9 g) in sulphuric acid (density 1.83; 280 cc) is added dropwise to a solution, stirred and cooled by iced water, of 4-carboxy-1-ethoxyisoquinoline (69.5 g) in sulphuric acid (density 1.83; 420 cc), whilst keeping the temperature below 20° C. The reactants are kept in contact for 16 hours at a temperature of about 20° C. and the reaction solution is then poured onto crushed ice (7 kg). The fine yellow crystals which precipitate are filtered off and then washed with water until a neutral filtrate is obtained. After drying, crude 4-carboxy-1-ethoxy-5-nitroisoquinoline (84.5 g) is obtained.

reactant | potassium nitrate | 34.9 g | [N+](=O)([O-])[O-].[K+]
reactant | water | O | H2O
reactant | 4-carboxy-1-ethoxyisoquinoline | 69.5 g | C(=O)(O)C1=CN=C(C2=CC=CC=C12)OCC | C12H11NO3
solvent | sulphuric acid | 280 cc | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 420 cc | S(O)(O)(=O)=O | H2O4S
product | 4-carboxy-1-ethoxy-5-nitroisoquinoline | 84.5 g | C(=O)(O)C1=CN=C(C2=CC=CC(=C12)[N+](=O)[O-])OCC | C12H10N2O5
